US06809199B2
The 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-{[4-(2-pyrrolidin-1-ylethyl)piperazin-1-yl]sulfonyl}-3,4-dihydroquinazolin-2(1H)-one was prepared from 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride and 1-(2-pyrrolidin-1-ylethyl)piperazine by a procedure analogous to that described in EXAMPLE CCC23, STEP A, except that no diisopropylethylamine was used. Mass spectrum (ESI) 648 (M+1). 1H NMR (500 MHz, CDCl3): selected peaks δ 1.81 (brs, 4H); 2.58 (m, 12H); 3.00 (brs, 4H); 4.35 (dd, J=15.4 Hz, J=1.6 Hz, 1 H); 4.46 (dd, J=15.4 Hz, J=1.6 Hz, 1H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)S(=O)(=O)Cl)C1=C(C=CC=C1Cl)Cl)=O | C20H12Cl4N2O3S
reactant | 1-(2-pyrrolidin-1-ylethyl)piperazine | N1(CCCC1)CCN1CCNCC1 | C10H21N3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-{[4-(2-pyrrolidin-1-ylethyl)piperazin-1-yl]sulfonyl}-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)S(=O)(=O)N1CCN(CC1)CCN1CCCC1)C1=C(C=CC=C1Cl)Cl)=O | C30H32Cl3N5O3S
